US06072075
N-,N'-,N"-Tri-Boc-guanidine
Potassium hydroxide pellets (2.81 g, 50 mmol) and sodium carbonate (5.30 g, 50 mmol) are finely ground in a mortar and transferred into a 250 ml round bottomed flask equipped with a magnetic stirrer and a reflux condenser. DMSO (50 ml) is added and the resulting suspension is stirred for 5 min at room temperature. Guanidine hydrochloride (4.78 g, 50 mmol) is added and the mixture is again stirred for 5 min After the addition of di-tert-butyl-dicarbonate (51.7 ml, 225 mmol) the mixture is stirred for 60 h at 40° C. The colorless precipitate obtained by pouring the cold reaction mixture into 1 l water is collected by filtration on Buechner funnel, washed with water and dried overnight in vacuo. Recrystallization from acetonitrile yields colorless needles (14.9 g, 83%): mp 147-150° C. (dec); 1H NMR (360 MHz, CDCl3) δ 1.48 (s, 27H); FAB-MS m/e (relative intensity) 360 (100, M+H+), 304 (34), 260 (10), 248 (74); Anal. Calc. for: C, 53.47%; H, 8.13%;.N, 11.69%; Found: C, 53.48%; H, 8.34%;.N, 11.86%.

reactant | Potassium hydroxide | [OH-].[K+]
reactant | sodium carbonate | 50 mmol, 5.30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Guanidine hydrochloride | 50 mmol, 4.78 g | Cl.NC(=N)N
reactant | di-tert-butyl-dicarbonate | 225 mmol, 51.7 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 1 l | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | N-,N'-,N"-Tri-Boc-guanidine | 14.9 g, 83% | C(=O)(OC(C)(C)C)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C16H29N3O6
